US06953806B2
In analogy to the procedure described in example 3.4, trans-[4-(3-hydroxy-propyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester was treated with methanesulfonyl chloride to yield trans-methanesulfonic acid 3-(4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexyl)-propyl ester as colorless solid, MS: 418 (MH+, 1Cl).

reactant | trans-[4-(3-hydroxy-propyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CCCO)=O | C18H26ClNO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-methanesulfonic acid 3-(4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexyl)-propyl ester | ClC1=CC=C(OC(=O)N(C)C[C@@H]2CC[C@H](CC2)CCCOS(=O)(=O)C)C=C1 | C19H28ClNO5S
